US07087626B2
2-(2-Hydroxyethyl)-3-hydroxymethyl-5-pyridin-2-yl-4-quinolin-4-yl-pyrazole
To a solution of 2-pyridin-2-yl-3-quinolin-4-yl-pyrazolo[5,1-c]morpholin-4-one (0.50 g, 1.46 mmol) in tetrahydrofuran (20 mL) is added LiAlH4 (0.50 g, 13.1 mmol) at room temperature. The mixture is stirred for 2 h quenched with 1 N sodium hydroxide solution, and partitioned between dichloromethane and water. The organic portion is dried (sodium sulfate), filtered, and concentrated in vacuo. The residue is chromatographed on SiO2 (10% methanol/dichloromethane) to yield the title compound, 0.35 g (70%), as an off-white solid.

reactant | 2-pyridin-2-yl-3-quinolin-4-yl-pyrazolo[5,1-c]morpholin-4-one | 1.46 mmol, 0.50 g | N1=C(C=CC=C1)C1=NN2C(C(OCC2)=O)=C1C1=CC=NC2=CC=CC=C12 | C20H14N4O2
reactant | LiAlH4 | 13.1 mmol, 0.50 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(2-Hydroxyethyl)-3-hydroxymethyl-5-pyridin-2-yl-4-quinolin-4-yl-pyrazole | OCCN1N=C(C(=C1CO)C1=CC=NC2=CC=CC=C12)C1=NC=CC=C1 | C20H18N4O2
